US04818813
(ii) N-(3-Aminopropyl)-1-amino-1,1-dimethyl-2-butanone oxime (II)
A solution of 3-chloro-3-methyl-2-nitrosobutane (25.5 g) in methanol (180 cm3) was added dropwise to a stirred solution of 1,3-diaminopropane (47 cm3) in methanol (75 cm3) at 0° C. After the addition was complete the mixture was refluxed for 6 hours. Removal of the methanol in vacuo gave a yellow oil which was slurried in water (50 cm3). The white precipitate was removed by filtration and the pH of the aqueous solution adjusted to about 11. After saturating with salt the solution was continuously extracted with dichloromethane for 36 hours. The organic phase was dried (MgSO4) and concentrated in vacuo giving a yellow oil. Recrystallisation from ether/petrol gave pure product as a white crystalline solid, 9.9 g. Mpt. 69°-72° C.

reactant | 3-chloro-3-methyl-2-nitrosobutane | 25.5 g | ClC(C(C)N=O)(C)C | C5H10ClNO
reactant | 1,3-diaminopropane | 47 cm3 | NCCCN | C3H10N2
reactant | methanol | 180 cm3 | CO | CH4O
reactant | methanol | 75 cm3 | CO | CH4O
solvent | water | 50 cm3 | O | H2O
product | N-(3-Aminopropyl)-1-amino-1,1-dimethyl-2-butanone oxime | NCCCNC(C(CC)=NO)(C)C | C9H21N3O
